US06489337B1
2-(4-Diisopropylaminoethoxyphenyl)-8-methylimidazo[1,2-a]pyridine
The title compound was prepared by condensing di-iso-propylamine with 2-(4-chloroethoxyphenyl)-8-methylimidazo[1,2-a]pyridine. 2-(4-Chloroethoxyphenyl)-8-methylimidazo[1,2-1]pyridine was prepared according the procedure described in Example 1 above using 1-bromo-2-chloroethane in place of 1-bromo-3-chloropropane. Analysis Calc'd for C22H29N3O 3HCl; C, 7.16; H, 55.18; N, 8.77. Found: C, 7.13; H, 55.56; N, 8.8.

reactant | di-iso-propylamine | C(C)(C)NC(C)C | C6H15N
reactant | 2-(4-chloroethoxyphenyl)-8-methylimidazo[1,2-a]pyridine | ClCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C16H15ClN2O
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 2-(4-Diisopropylaminoethoxyphenyl)-8-methylimidazo[1,2-a]pyridine | C(C)(C)N(C(C)C)CCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C22H29N3O
